US08669266B2
(i) 4-[(S)-2-({4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-4-hydrazinocarbonyl-butyryl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 100 mg of 4-[(S)-4-Carboxy-2-({4-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester, 48 mg of TOTU and 67 mg of NEM in 2 ml of DCM, 10 mg of hydrazine hydrate was added and the reaction mixture was stirred for 16 h at RT. Then, the reaction mixture was diluted with water and extracted with DCM. The combined organic phases were dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was used for the next reaction step. Yield: 101 mg.

reactant | 4-[(S)-4-Carboxy-2-({4-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | 100 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)O)NC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C)=O | C34H44N6O9
reactant | TOTU | 48 mg | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | hydrazine hydrate | 10 mg | O.NN
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-[(S)-2-({4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-4-hydrazinocarbonyl-butyryl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)NN)NC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C)=O | C34H46N8O8
